US07795267B2
7-[[(E)-2-(4-Fluorophenyl)ethenyl]sulfonyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (50 mg, 0.17 mmol) in chloroform (2 mL) were sequentially added pyridine (0.5 mL) and (E)-2-(4-fluorophenyl)vinylsulfonyl chloride (43 mg, 0.24 mmol), and the mixture was stirred at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1) and crystallized from diisopropyl ether to obtain the title compound (27 mg, yield 64%).

reactant | hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.17 mmol, 50 mg | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
reactant | (E)-2-(4-fluorophenyl)vinylsulfonyl chloride | 0.24 mmol, 43 mg | FC1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C8H6ClFO2S
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-[[(E)-2-(4-Fluorophenyl)ethenyl]sulfonyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 27 mg, yield 64% | FC1=CC=C(C=C1)/C=C/S(=O)(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H23FN2O4S
